US06627651B1
A mixture comprising ethyl 3-hydroxybenzoate (5.00 g), 4-methylbenzyl chloride (4.78 ml), potassium carbonate (6.24 g), methyl iodide (5.41 g) and acetone (50 ml) was heated at reflux for 15 hours. After the reaction mixture was evaporated under reduced pressure to remove the solvent, the residue was mixed with water (200 ml) and was extracted with ethyl acetate. After the organic layer was concentrated, a 1 N aqueous solution of sodium hydroxide (50 ml) was added to the residue dissolved in methanol (50 ml), and the resulting mixture was heated at reflux for 3 hours. After cooling to room temperature, the reaction mixture was acidified by the addition of concentrated hydrochloric acid and then was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride, was dried with anhydrous sodium sulfate and was evaporated under reduced pressure to remove the solvent. The resulting residue was recrystallized from ethyl acetate/hexane to obtain 3-(4-methylbenzyloxy)benzoic acid (5.92 g) as colorless crystals.

reactant | ethyl 3-hydroxybenzoate | 5.00 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | 4-methylbenzyl chloride | 4.78 ml | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | potassium carbonate | 6.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 5.41 g | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(4-methylbenzyloxy)benzoic acid | 5.92 g | CC1=CC=C(COC=2C=C(C(=O)O)C=CC2)C=C1 | C15H14O3
